US06214882B1
3.3. (+)-α-Chloromethyl-2-methoxy-5-sulphamoylbenzyl acetate
2.64 g (9.9 mmol) of α-chloromethyl-2-methoxy-5-sulphamoylbenzenemethanol and 100 ml of dichloromethane are introduced into a 250-ml round-bottomed flask. 10 ml of dimethylformamide are then added with stirring, followed by 852 μl of acetic acid, 2.56 g of dicyclohexylcarbodiimide and 121 mg of dimethylaminopyridine. The mixture is allowed to react for 1 hour at room temperature, and is then filtered and rinsed with 50 ml of 5% sodium hydrogen carbonate solution and then with 50 ml of water. The rinsing liquors are extracted with 2 times 20 ml of acetic acid, and the organic phases are then combined, dried and concentrated. On chromatographing the residue on a silica column with a 25:75 mixture of ethyl acetate and cyclohexane, 1.9 g of product are obtained.

reactant | α-chloromethyl-2-methoxy-5-sulphamoylbenzenemethanol | 9.9 mmol, 2.64 g | ClCC(O)C1=C(C=CC(=C1)S(N)(=O)=O)OC | C9H12ClNO4S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | dicyclohexylcarbodiimide | 2.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 121 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic acid | 852 μl | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (+)-α-Chloromethyl-2-methoxy-5-sulphamoylbenzyl acetate | C(C)(=O)OC(C1=C(C=CC(=C1)S(N)(=O)=O)OC)CCl | C11H14ClNO5S
